US07381749B2
1-(1-Benzenesulfonyl-2,3-dihydro-1H-indol-5-yl)-ethanone
1-(2,3-Dihydro-1H-indol-5-yl)-ethanone (0.200 g, 1.24 mmol) was dissolved in THF (2 ml) before pyridine (0.303 ml, 3.75 mmol) was added, leaving a yellow solution. The benzenesulfonyl chloride (0.220 g, 1.24 mmol) was then added, as a solid, with stirring. The reaction mixture was stirred at 40 C for 5 h. The mixture was cooled and the THF and pyridine were removed in vacuo. The desired sulfonamide (0.310 g, 1.02 mmol, 82%) was recrystallized from ethyl acetate and hexanes. It had LC-MS (ES+): 302 [MH]+ m/e

reactant | 1-(2,3-Dihydro-1H-indol-5-yl)-ethanone | 1.24 mmol, 0.200 g | N1CCC2=CC(=CC=C12)C(C)=O | C10H11NO
reactant | pyridine | 3.75 mmol, 0.303 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 1.24 mmol, 0.220 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(1-Benzenesulfonyl-2,3-dihydro-1H-indol-5-yl)-ethanone | C1(=CC=CC=C1)S(=O)(=O)N1CCC2=CC(=CC=C12)C(C)=O | C16H15NO3S
